US04753953
(3S)-10-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid hydrochloride
A mixture of (3S)-10-(cis-3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid (0.6 g) in ethanol (8 ml) and ethanolic hydrochloride solution (10 ml) was stirred for 1.5 hours at room temperature and then concentrated. To the residue was added ethanol and the resulting precipitate was collected by filtration to give the title compound (0.44 g) as yellowish powder, mp 285° C. (decompd.).

reactant | (3S)-10-(cis-3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 0.6 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F | C23H28FN3O6
reactant | hydrochloride | 10 ml | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | (3S)-10-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid hydrochloride | 0.44 g | Cl.N[C@@H]1CN(C[C@@H]1C)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F | InChI=1S/C18H20FN3O4.ClH/c1-8-4-21(6-13(8)20)15-12(19)3-10-14-17(15)26-7-9(2)22(14)5-11(16(10)23)18(24)25;/h3,5,8-9,13H,4,6-7,20H2,1-2H3,(H,24,25);1H/t8-,9-,13+;/m0./s1
